US04654369
Methyl 2-[N-(2-Hydroxy-1-propyl)aminosulfonyl]-6-nitrobenzoate
A solution of methyl 2-chlorosulfonyl-6-nitrobenzoate (2.80 g, 10 mmol) in 100 ml of THF was cooled in an ice-bath and stirred while a solution of 1-amino-2-propanol (1.65 g, 22 mmol) in 10 ml of THF was added dropwise over a period of 50 minutes. After stirring an additional 30 minutes in the ice-bath, the reaction mixture was acidified by the addition of 3 ml of 1.2N HCl. The THF was evaporated under reduced pressure and the residue taken up in 100 ml of ethyl acetate. After extracting with 4×20 ml of saturated NaCl solution, the ethyl acetate solution was dried over Na2SO4 and the solvent evaporated. The residue was crystallized from a mixture of ethyl acetate and hexane to give 2.02 g (63.5%) of yellow crystalline product, m.p., 93.5°-95°.

reactant | methyl 2-chlorosulfonyl-6-nitrobenzoate | 10 mmol, 2.80 g | ClS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C8H6ClNO6S
reactant | 1-amino-2-propanol | 22 mmol, 1.65 g | NCC(C)O | C3H9NO
reactant | HCl | 1.2N, 3 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Methyl 2-[N-(2-Hydroxy-1-propyl)aminosulfonyl]-6-nitrobenzoate | 2.02 g, 63.5% | OC(CNS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-])C | C11H14N2O7S
